* /Users/bubblegum/projects/le-ton-juste/docs/reverb-tank/stages/mvp_reverb.asc
* Generated by LTspice 26.0.2 for MacOS.
Vpos +15V 0 15
Vneg 0 -15V 15
C15 +15V 0 10µ
C16 -15V 0 10µ
C5 +15V 0 100n
C6 -15V 0 100n
C7 +15V 0 100n
C8 -15V 0 100n
V1 vin 0 SINE(0 100m 1k) AC 1
C_in vin u1_pos 1µ
R1 u1_pos 0 1Meg
Dclamp_p u1_pos +15V 1N4148
Dclamp_n -15V u1_pos 1N4148
X§U1 u1_pos u1_out +15V -15V u1_out level2 level2 Avol=1Meg GBW=8Meg Slew=20Meg Ilimit=25m Rail=0 Rinc=1T Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R2 u1_out u1_buf 100
RV1a u1_buf rv1_wiper 5k
RV1b rv1_wiper 0 5k
C_drive rv1_wiper drive_a 1µ
R_drive drive_a tank_in 560
R_tank_in tank_in 0 8
L_tank tank_in tank_mid 15m Rser=0
R_tank_mech tank_mid tk_a 200
L_tank_mech tk_a tk_b 500m Rser=0
C_tank_mech tk_b 0 10n
R_tank_out tank_mid tank_out 2550
L_tank_out tank_out 0 2 Rser=0
C3 tank_out u2_in_pos 470n
Rbias u2_in_pos 0 100k
X§U2 u2_in_pos u2_inv +15V -15V u2_out level2 level2 Avol=1Meg GBW=8Meg Slew=20Meg Ilimit=25m Rail=0 Rinc=1T Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
Ri u2_inv 0 470
Rf u2_out u2_inv 100k
C4 u2_out hpf_out 100n
R6 hpf_out 0 5.6k
RV3a hpf_out rv3_wiper 50k
RV3b rv3_wiper 0 50k
Rdry u1_buf mix_top 10k
Rwet rv3_wiper mix_top 0.001
RV2a mix_top mix_node 50k
RV2b mix_node 0 50k
C_bright mix_top mix_node 47p
X§U3 mix_node u3_out +15V -15V u3_out level2 level2 Avol=1Meg GBW=8Meg Slew=20Meg Ilimit=25m Rail=0 Rinc=1T Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R7 u3_out v_out 100
Rload v_out 0 47k
.model D D
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
* Ghost Spring MVP - Direct Op-amp Drive Spring Reverb
* Connectivity by net labels (FLAG at each pin). Generated by gen_mvp_asc.py for installed LTspice 26 symbols.
* Power: idealised +/-15V. C5-C8 100n decoupling, C15/C16 10u bulk.
* J2 -> MC100 input (47k load)
.ac dec 100 20 20k
.meas AC gain_recovery MAX V(u2_out)
.meas AC u2_stage_gain FIND V(u2_out)/V(u2_in_pos) AT=1k
* Other analyses (.op, .tran 0 100m 0 1u) available - swap in for .ac as needed (one analysis at a time).
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3 (C:\users\crossover\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
